US08048887B2
To a 100 mL round-bottomed flask was added 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methoxybenzoic acid (1258 mg, 3 mmol), DMF (40 mL), 2-methylpropan-1-amine (447 μL, 4.50 mmol), N-ethyl-N,N-diisopropylamine (1.1 mL, 6.00 mmol), and finally HATU (2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (3422 mg, 9.00 mmol)). The mixture was stirred over night at room temperature. The crude product was diluted with ethyl acetate, washed with 1M HCl, and extracted. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude residue was loaded onto 40M BIOTAGE® column and purified using a BIOTAGE® Horizon with 2200 mL of 0-6% methanol in DCM). The product was concentrated in vacuo then triturated with cold acetonitrile to give a 60% yield of 2-(4-fluorophenyl)-5-(5-(isobutylcarbamoyl)-2-methoxyphenyl)-N-methylbenzofuran-3-carboxamide as a light yellow solid. The NMR spectrum was recorded at room temperature using a Bruker DRX500 spectrometer. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 220 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (500 MHz, CD3OD) δ ppm 0.89-1.07 (m, 6H), 1.96 (dt, J=13.43, 6.71 Hz, 1H), 2.97 (s, 3H), 3.22 (d, J=6.10 Hz, 2H), 3.80-3.98 (m, 3H), 7.19 (d, J=9.46 Hz, 1H), 7.24-7.33 (m, 2H), 7.52-7.57 (m, 1H), 7.57-7.65 (m, 1H), 7.80 (s, 1H), 7.84-7.92 (m, 2H), 7.96-8.02 (m, 2H), 8.46 (br. s., 1H). LCMS m/z 475.02 (M+H), Rt 2.290 min. HPLC Rt 14.374 min. (Sunfire C18) and 15.689 min. (XBridge phenyl C18), 95% purity.

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methoxybenzoic acid | 3 mmol, 1258 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2OC | C24H18FNO5
reactant | 2-methylpropan-1-amine | 4.50 mmol, 447 μL | CC(CN)C | C4H11N
reactant | N-ethyl-N,N-diisopropylamine | 6.00 mmol, 1.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 9.00 mmol, 3422 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-5-(5-(isobutylcarbamoyl)-2-methoxyphenyl)-N-methylbenzofuran-3-carboxamide | 60% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NCC(C)C)=O)OC | C28H27FN2O4
